US07638517B2
To a RT solution of 1H-pyrrolo[2,3-c]pyridine (595 mg, 5.04 mmol) in THF (20 mL) was added i-PrMgCl (1.5 M in THF, 5.0 mL, 7.6 mmol) followed by ZnCl2 (1M in Et2O, 7.6 mL). The resulting mixture was stirred at RT for 5 min then a solution of 2-benzylidene-malonic acid diethyl ester (2.2 mL, 10 mmol) in THF (20 mL) was added dropwise. The mixture was stirred at RT for 1 hour, quenched by addition of a saturated solution of NH4Cl, and extracted with EtOAc. The combined extracts were washed with brine, dried over Na2SO4, filtered, concentrated, and purified via flash chromatography (DCM/MeOH/NH4OH), affording 2-[Phenyl-(1H-pyrrolo[2,3-c]pyridin-3-yl)-methyl]-malonic acid diethyl ester (0.33 g, 18% yield).

reactant | 1H-pyrrolo[2,3-c]pyridine | 5.04 mmol, 595 mg | N1C=CC=2C1=CN=CC2 | C7H6N2
reactant | i-PrMgCl | 7.6 mmol, 1.5 M, 5.0 mL | C(C)(C)[Mg]Cl
reactant | 2-benzylidene-malonic acid diethyl ester | 10 mmol, 2.2 mL | C(C)OC(C(C(=O)OCC)=CC1=CC=CC=C1)=O | C14H16O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 1M, 7.6 mL | [Cl-].[Cl-].[Zn+2]
product | 2-[Phenyl-(1H-pyrrolo[2,3-c]pyridin-3-yl)-methyl]-malonic acid diethyl ester | 0.33 g, 18% yield | C(C)OC(C(C(=O)OCC)C(C1=CNC2=CN=CC=C21)C2=CC=CC=C2)=O | C21H22N2O4
